US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.1103 g, 0.397 mmol) was reacted with (E)-N-(2-azidoethyl)-2-methyl-3-phenylacrylamide (0.092 g, 0.397 mmol) following the general click procedure to give (E)-tert-butyl 2-amino-4-(5-(1-(2-(2-methyl-3-phenylacrylamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.28 (m, 7H), δ 6.94 (s, 2H), 6.06 (s, 2H), δ 4.46 (s, 2H), δ 3.79 (s, 2H), δ 2.61 (s, 2H), δ 2.27 (s, 2H0, δ 1.99 (s, 3H), δ 1.49 (bs, 11H), δ 1.18 (s, 4H) ppm; 13C NMR (75 MHz, CDCl3) δ 192.4, 191.3, 170.4, 150.9, 140.2, 136.2, 134.8, 131.6, 129.6, 128.6, 128.1, 122.1, 95.8, 85.2, 74.3, 53.7, 52.6, 50.7, 49.4, 40.1, 29.9, 29.3, 28.9, 28.2, 25.6, 14.4 ppm; HRMS (ESI) calcd for C27H37N7O3 (M+) 507.2958. found 507.2942, which was subsequently deprotected to give (E)-N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-2-methyl-3-phenylacrylamide hydrochloride (0.148 g, 84% yield). 1H NMR (400 MHz, CD3OD) δ 8.78 (s, 1H), δ 7.33 (s, 4H), δ 7.26 (s, 1H), δ 7.19 (s, 1H), δ 6.42 (s, 1H), δ 4.78 (s, 2H), δ 3.84 (s, 2H), δ 2.87 (s, 2H), δ 2.44 (s, 2H), δ 1.99 (s, 3H), δ 1.76 (s, 2H), δ 1.59 (s, 2H), δ 1.42 (s, 2H) ppm; 13C NMR (100 MHz, CD3OD) δ 174.7, 136.0, 134.4, 131.5, 129.3, 128.7, 128.3, 128.0, 127.6, 108.6, 94.6, 53.1, 39.2, 27.6, 27.9, 27.7, 27.6, 24.1, 23.8, 23.1, 14.3, 13.4 ppm; HRMS (ESI) calcd for C22H29N7O (M+) 407.2434. found 407.2429.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.397 mmol, 0.1103 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | (E)-N-(2-azidoethyl)-2-methyl-3-phenylacrylamide | 0.397 mmol, 0.092 g | N(=[N+]=[N-])CCNC(\C(=C\C1=CC=CC=C1)\C)=O | C12H14N4O
product | (E)-tert-butyl 2-amino-4-(5-(1-(2-(2-methyl-3-phenylacrylamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(\C(=C\C1=CC=CC=C1)\C)=O)C(=O)OC(C)(C)C | C27H37N7O3
